US09382236B2
(3) tert-Butyl[4-[(1-amino-5,6,7,8-tetrahydro-2-naphthyl)amino]phenyl]carbamate
tert-Butyl[4-[(1-nitro-5,6,7,8-tetrahydro-2-naphthyl)amino]phenyl]carbamate (7.66 g, 20 mmol) was dissolved in tetrahydrofuran (77 mL) and methanol (77 mL), the solution was added with 10% palladium-carbon (0.77 g), and the mixture was stirred at room temperature for 42 hours under a hydrogen atmosphere. The catalyst was separated by filtration, then the solvent was evaporated under reduced pressure, and the residue was washed with hexane to obtain the title compound (6.71 g, yield 95%) as pale brown crystals.

reactant | tert-Butyl[4-[(1-nitro-5,6,7,8-tetrahydro-2-naphthyl)amino]phenyl]carbamate | 20 mmol, 7.66 g | C(C)(C)(C)OC(NC1=CC=C(C=C1)NC1=C(C=2CCCCC2C=C1)[N+](=O)[O-])=O | C21H25N3O4
solvent | tetrahydrofuran | 77 mL | O1CCCC1 | C4H8O
solvent | methanol | 77 mL | CO | CH4O
catalyst | palladium-carbon | 0.77 g | [C].[Pd]
product | tert-Butyl[4-[(1-amino-5,6,7,8-tetrahydro-2-naphthyl)amino]phenyl]carbamate | 6.71 g, yield 95% | C(C)(C)(C)OC(NC1=CC=C(C=C1)NC1=C(C=2CCCCC2C=C1)N)=O | C21H27N3O2
